US04617396
To a mixture of 2.42 moles (334.4 g.) of potassium carbonates, 2.2 moles (510.6 g.) of 2,2,2-trifluoroethyl trifluoromethanesulfonate in 1.02 liter of acetone is added a solution of 1.0 mole (110 g.) of hydroquinone in 1.1 liter of acetone, slowly over a 2 hour period. The reaction is then heated at reflux for 24 hours, the reaction mixture is evaporated, and 2 liters of chloroform and 2 liters of water are added to the residue. The chloroform layer is separated, the aqueous layer is washed twice with 1 liter of chloroform, and the combined chloroform solution is washed with 1 liter of water. The chloroform solution is dried over magnesium sulfate, then concentrated under vacuum. Hexane is added to the residue and the solid product is collected by filtration and washed with hexane. Additional material is collected from the concentrated residues. A yield of 88 percent, 241 g. of 1,4-bis(2,2,2-trifluoroethoxy)benzene, m.p. 75°-77° C. is obtained.

reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 2.2 moles, 510.6 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | hydroquinone | 1.0 mole, 110 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetone | 1.02 liter | CC(=O)C | C3H6O
solvent | acetone | 1.1 liter | CC(=O)C | C3H6O
product | 1,4-bis(2,2,2-trifluoroethoxy)benzene | yield of 88 percent | FC(COC1=CC=C(C=C1)OCC(F)(F)F)(F)F | C10H8F6O2
